US04629787
1-Carboxymethyl-3-(S)-[(1-carboxy-2-phenylethyl)amino]perhydroazepin-2-one
Prepare an aqueous solution of 500 mg 3-(S)-amino-1-carboxymethylperhydroazepin-2-one in 5 ml water. Adjust the pH to 6 with 1N sodium hydroxide solution and add 15 ml water. React this amine with 2.24 g sodium phenylpyruvate monohydrate and 400 mg sodium cyanoborohydride as described in Example 1. Purify 370 mg of the crude product on an LH-20 column and isoalte 240 mg of 1-carboxymethyl-3-(S)-[(1-carboxy-2-phenylethyl)amino]perhydroazepin-2-one.

reactant | 3-(S)-amino-1-carboxymethylperhydroazepin-2-one | 500 mg | N[C@@H]1C(N(CCCC1)CC(=O)O)=O | C8H14N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium phenylpyruvate monohydrate | 2.24 g | O.C1(=CC=CC=C1)CC(C(=O)[O-])=O.[Na+]
reactant | sodium cyanoborohydride | 400 mg | C(#N)[BH3-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 1-Carboxymethyl-3-(S)-[(1-carboxy-2-phenylethyl)amino]perhydroazepin-2-one | C(=O)(O)CN1C([C@H](CCCC1)NC(CC1=CC=CC=C1)C(=O)O)=O | C17H22N2O5
